US04645765
To a solution of 11-acetyl-8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (40 mg) in methanol (2 ml) were added hydroxylamine hydrochloride (10 mg) and sodium bicarbonate (8 mg). The mixture was stirred for 2 hours at ambient temperature and evaporated in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (10:1, v/v) to afford 11-acetyl-8-carbamoyloxymethyl-4-hydroxyiminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (13 mg).

reactant | 11-acetyl-8-carbamoyloxymethyl-4-formyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | 40 mg | C(C)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(C)=O)C=O | C20H21N3O9
reactant | hydroxylamine hydrochloride | 10 mg | Cl.NO
reactant | sodium bicarbonate | 8 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 11-acetyl-8-carbamoyloxymethyl-4-hydroxyiminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate | 13 mg | C(C)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(C)=O)C=NO | C20H22N4O9
